US07557114B2
(d) rac-5-(Tetrahydro-pyran-3-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A3(e) from rac-5-(tetrahydro-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown oil. MS (m/e): 204.3 ([M+H]+, 100%).

reactant | rac-5-(tetrahydro-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1COCCC1 | C18H25NO3
reactant | hydrochloric acid | Cl | ClH
product | rac-5-(Tetrahydro-pyran-3-yl)-2,3-dihydro-1H-isoindole | O1CC(CCC1)C=1C=C2CNCC2=CC1 | C13H17NO
